US07645760B2
b) (E)-3-(2-tert-Butyloxycarbonylamino-5-chlorophenyl)-acrylic acid
(E)-3-(2-tert-Butyloxycarbonylamino-5-chlorophenyl)-acrylic acid methyl ester (1.8 g, 5.77 mmol) was dissolved in MeOH (115 ml), 2N NaOH (4.3 ml, 8.6 mmol) added and stirred at 60°C. for 2 hours. The reaction mixture was evaporated to dryness, acidified to pH 3.5 by adding water (200 ml) and 2N HCl (4.35 ml) and extracted twice with TBME. The combined organic phases were dried over Na2SO4 and evaporated to dryness to yield the title acid as a solid, which was recrystallised from TBME/hexanes to render the title compound as colorless crystals (1.0 g, 59%).

reactant | (E)-3-(2-tert-Butyloxycarbonylamino-5-chlorophenyl)-acrylic acid methyl ester | 5.77 mmol, 1.8 g | COC(\C=C\C1=C(C=CC(=C1)Cl)NC(=O)OC(C)(C)C)=O | C15H18ClNO4
reactant | NaOH | 8.6 mmol, 2N, 4.3 ml | [OH-].[Na+]
solvent | MeOH | 115 ml | CO | CH4O
product | (E)-3-(2-tert-Butyloxycarbonylamino-5-chlorophenyl)-acrylic acid | C(C)(C)(C)OC(=O)NC1=C(C=C(C=C1)Cl)/C=C/C(=O)O | C14H16ClNO4
